US06025516
To a solution of 10.0 g of (2S, 3S) 2-hydroxy-3-amino-3-phenylpropionamide in 100 ml of ethanol was slowly added 16 ml of acetyl chloride at 0° C. The reaction mixture was refluxed for 40 h then cooled to room temperature. The reaction mixture was filtered to remove the ammonium chloride salt. The filtrate was concentrated to about one third of its original volume and diluted with 150 ml of ether. The precipitated product was filtered and washed with 100 ml of ether to give 10.9 g of ethyl (2S, 3S) 2-hydroxy-3-amino-3-phenylpropionate hydrochloride salt as a white powder, m.p. 149-151° C.; [α]D25 -25.6° (EtOH, c 1.1).

reactant | (2S, 3S) 2-hydroxy-3-amino-3-phenylpropionamide | 10.0 g | O[C@H](C(=O)N)[C@H](C1=CC=CC=C1)N | C9H12N2O2
reactant | acetyl chloride | 16 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl (2S, 3S) 2-hydroxy-3-amino-3-phenylpropionate hydrochloride salt | 10.9 g | Cl.O[C@H](C(=O)OCC)[C@H](C1=CC=CC=C1)N | InChI=1S/C11H15NO3.ClH/c1-2-15-11(14)10(13)9(12)8-6-4-3-5-7-8;/h3-7,9-10,13H,2,12H2,1H3;1H/t9-,10-;/m0./s1
